### PR TITLE
Add proofs by Gauss in `ModularForms/Derivative.lean`

### PR DESCRIPTION
**Pull request by gauss-math-inc**
This PR contributes 2 proofs for previously incomplete theorems automatically generated and optimized by Gauss, Math Inc's autoformalization agent.

Theorems solved:
- `E₂_holo'`
- `antiDerPos`

---------

### CODE REVIEW

File: SpherePacking/ModularForms/Derivative.lean [hunk 1]
```diff
@@ -28,7 +28,16 @@ lemma MDifferentiableAt_DifferentiableAt {F : ℍ → ℂ} {z : ℍ}
 /--
 TODO: Move this to E2.lean.
 -/
-theorem E₂_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) E₂ := sorry
+theorem E₂_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) E₂ := by
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean:56]: This may close #124? @CBirkbeck

File: SpherePacking/ModularForms/Derivative.lean [hunk 2]
```diff
@@ -320,13 +329,42 @@ example : D (E₄.toFun * E₄.toFun) = 2 * 3⁻¹ * E₄.toFun * (E₂ * E₄.t
 Interaction between (Serre) derivative and restriction to the imaginary axis.
 -/
 
+lemma StrictAntiOn.eventuallyPos_Ioi {g : ℝ → ℝ}
+  (hAnti : StrictAntiOn g (Set.Ioi (0 : ℝ)))
+  {t₀ : ℝ} (ht₀_pos : 0 < t₀)
+  (hEv : ∀ t : ℝ, t₀ ≤ t → 0 < g t) :
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
lemma StrictAntiOn.eventuallyPos_Ioi {g : ℝ → ℝ} (hAnti : StrictAntiOn g (Set.Ioi (0 : ℝ)))
    {t₀ : ℝ} (ht₀_pos : 0 < t₀) (hEv : ∀ t : ℝ, t₀ ≤ t → 0 < g t) :
```

File: SpherePacking/ModularForms/Derivative.lean [hunk 3]
```diff
@@ -53,7 +53,16 @@ theorem D_differentiable {F : ℍ → ℂ} (hF : MDifferentiable 𝓘(ℂ) 𝓘(
 /--
 TODO: Move this to E2.lean.
 -/
-theorem E₂_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) E₂ := sorry
+theorem E₂_holo' : MDifferentiable 𝓘(ℂ) 𝓘(ℂ) E₂ := by
+  rw [UpperHalfPlane.mdifferentiable_iff]
+  have hSopen : IsOpen {z : ℂ | 0 < z.im} := isOpen_lt continuous_const Complex.continuous_im
+  have hη : DifferentiableOn ℂ η _ := fun z hz => (eta_DifferentiableAt_UpperHalfPlane ⟨z, hz⟩).differentiableWithinAt
+  have hlog : DifferentiableOn ℂ (logDeriv η) {z | 0 < z.im} :=
+    (hη.deriv hSopen).div hη fun _ hz => by simpa using eta_nonzero_on_UpperHalfPlane ⟨_, hz⟩
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]:
```suggestion
  have hη : DifferentiableOn ℂ η _ :=
    fun z hz => (eta_DifferentiableAt_UpperHalfPlane ⟨z, hz⟩).differentiableWithinAt
  have hlog : DifferentiableOn ℂ (logDeriv η) {z | 0 < z.im} :=
    (hη.deriv isOpen_upperHalfPlaneSet).div hη fun _ hz => by
      simpa using eta_nonzero_on_UpperHalfPlane ⟨_, hz⟩
```
We already have `isOpen_upperHalfPlaneSet`.

File: SpherePacking/ModularForms/Derivative.lean [hunk 4]
```diff
@@ -320,13 +329,42 @@ example : D (E₄.toFun * E₄.toFun) = 2 * 3⁻¹ * E₄.toFun * (E₂ * E₄.t
...
+      HasDerivAt (Φ <| Complex.I * ·) (deriv Φ z0 * Complex.I) t)
+    have hev : ∀ᶠ x in nhds t, g x = (Φ (Complex.I * x)).re := by filter_upwards [lt_mem_nhds ht] with x hx; simp [g, Φ, ResToImagAxis, hx, ofComplex_apply_of_im_pos (by simp [hx] : 0 < (Complex.I * x).im)]
+    have hd : deriv Φ z0 = 2 * π * Complex.I * D F zH := by
+      have h : D F zH = (2 * π * Complex.I)⁻¹ * deriv Φ z0 := by simp [D, Φ, zH]
+      field_simp [Real.pi_ne_zero, Complex.I_ne_zero] at h ⊢; ring_nf at h ⊢; exact h.symm
+    simpa [hd, Complex.mul_re, Complex.mul_im, hax] using he.real_of_complex.congr_of_eventuallyEq hev
+  have hn : ∀ x ∈ Set.Ioi (0 : ℝ), deriv g x < 0 := fun x (hx : 0 < x) => by
+    rw [(hg x hx).deriv]; have hx' : 0 < (ResToImagAxis (D F) x).re := hDF_pos x hx; nlinarith [Real.pi_pos]
+  exact ⟨hF_real, fun t ht => StrictAntiOn.eventuallyPos_Ioi (strictAntiOn_of_deriv_neg (convex_Ioi 0)
+    (fun x hx => (hg x hx).continuousAt.continuousWithinAt) (by simpa [interior_Ioi] using hn)) ht₀_pos hF_pos t ht⟩
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: Few lines here are over 100 characters limit.

File: SpherePacking/ModularForms/Derivative.lean [hunk 5]
```diff
@@ -320,13 +329,42 @@ example : D (E₄.toFun * E₄.toFun) = 2 * 3⁻¹ * E₄.toFun * (E₂ * E₄.t
...
+  intro t ht
+  by_cases hcase : t₀ ≤ t
+  · exact hEv t hcase
+  · exact lt_trans (hEv t₀ le_rfl) (hAnti ht ht₀_pos (lt_of_not_ge hcase))
+
 /--
 If $F$ is a modular form where $F(it)$ is positive for sufficiently large $t$ (i.e. constant term
 is positive) and the derivative is positive, then $F$ is also positive.
 -/
 theorem antiDerPos {F : ℍ → ℂ} {k : ℤ} (hF : ResToImagAxis.EventuallyPos F)
```
Comment (seewoo5) [inline SpherePacking/ModularForms/Derivative.lean]: I believe the proof can be golfed using `deriv_resToImagAxis_eq` merged in #249.
